US05153126
Lipase (Lipase D10 manufactured by Amano Pharmaceutical Co., Ltd.) (60 mg) was dispersed in 15 ml of glycerol containing 8% v/v of 20 mM citrate buffer (pH 5.5) and 100 mM CaCl2 to form a lower layer, a solution of 375 mg of n-pentadecanoic acid in 50 ml of n-hexane (concentration 7.5 mg/ml) was provided thereon as the upper layer, and the two layers were stirred at 40° C. to carry out an esterification reaction at the interface between the two layers. The crystallizing bottle was maintained at 4° C. to obtain pentadecanoic acid monoglyceride. As a result, it was confirmed that pentadecanoic acid of 95% purity was synthesized.

reactant | citrate | 20 mM, pH 5.5 | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-]
reactant | CaCl2 | 100 mM | [Cl-].[Cl-].[Ca+2]
reactant | n-hexane | 50 ml | CCCCCC | C6H14
solvent | glycerol | 15 ml | OCC(O)CO | C3H8O3
product | n-pentadecanoic acid | 375 mg | C(CCCCCCCCCCCCCC)(=O)O | C15H30O2
